US07034166B2
Preparation of 2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine
To a mixture of N-benzyl-2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine (80 g), toluene (240 mL) and isopropanol (80 mL) was added 10% Pd-carbon (a product containing 50% water, 4 g), and the mixture was hydrogenated at 35° C. under atmospheric pressure. After completion of the reaction, the catalyst was filtered. Concentrated hydrochloric acid (19.2 mL) was added to the filtrate and the mixture was stirred at 10° C. or below for 1 hour. Precipitated crystals were filtered. The crystals were added to a mixture of methanol (560 mL) and water (80 mL) and the mixture was heated to 50° C. to dissolve the crystals. Then, 25% aqueous ammonia water was added dropwise to the solution to adjust to pH 8.5. Precipitated crystals were filtered to obtain the title compound (54.32 g, 88.6%).

reactant | N-benzyl-2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine | 80 g | C(C1=CC=CC=C1)NC=1C(=C(C2=C(C(C(O2)(C)C)C2=CC=C(C=C2)C)C1C)C)C | C27H31NO
reactant | toluene | 240 mL | C1(=CC=CC=C1)C | C7H8
reactant | isopropanol | 80 mL | C(C)(C)O | C3H8O
catalyst | Pd carbon | [Pd].[C]
solvent | water | O | H2O
product | 2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine | 54.32 g, 88.6% | CC1(OC2=C(C1C1=CC=C(C=C1)C)C(=C(C(=C2C)C)N)C)C | C20H25NO
